US09290451B2
c) 6-Cyclopentyl-pyridine-2-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 1, using 6-cyclopentyl-pyridine-2-carboxylic acid and 1-piperidinamine (CAN 2213-43-6) as starting materials, MS (EI): m/e=274.1 [M+H]+.

reactant | 6-cyclopentyl-pyridine-2-carboxylic acid | C1(CCCC1)C1=CC=CC(=N1)C(=O)O | C11H13NO2
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | 6-Cyclopentyl-pyridine-2-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=NC(=CC=C1)C1CCCC1 | C16H23N3O
